US06995144B2
1-(2-Methoxy-3-pyridinylmethyl)-4-(2-phenylethyl)piperidine-4-methanol
After dissolving 247 mg of ethyl 1-(2-methoxy-3-pyridinylmethyl)-4-(2-phenylethyl)piperidine-4-carboxylate in 10 ml of diethyl ether, the solution was cooled to −20° C. and 1 ml of diisobutylaluminium hydride (1.5 M, toluene solution) was added dropwise. The mixture was stirred for 4 hours while slowly raising the temperature to room temperature, and then approximately 10 ml of a saturated aqueous solution of potassium sodium (+)-tartrate tetrahydrate and approximately 10 ml of ethyl acetate were added and the mixture was stirred for 10 minutes at room temperature. The organic layer was separated off and the aqueous layer was extracted With ethyl acetate. The organic layers were combined and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (173 mg, 79% yield).

reactant | ethyl 1-(2-methoxy-3-pyridinylmethyl)-4-(2-phenylethyl)piperidine-4-carboxylate | 247 mg | COC1=NC=CC=C1CN1CCC(CC1)(C(=O)OCC)CCC1=CC=CC=C1 | C23H30N2O3
reactant | diisobutylaluminium hydride | 1.5 M, 1 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | potassium sodium (+)-tartrate tetrahydrate | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | ethyl acetate | approximately 10 ml | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-(2-Methoxy-3-pyridinylmethyl)-4-(2-phenylethyl)piperidine-4-methanol | 173 mg, 79% yield | COC1=NC=CC=C1CN1CCC(CC1)(CO)CCC1=CC=CC=C1 | C21H28N2O2
